* Z:\home\ostoja\Elektronika\PSG10M\simulacije\701_capacitance_multiplier.asc
R1 N003 vcc_in 1k
C1 N003 0 47µ
V1 N005 N006 PULSE(-1 1 0 10u 10u 1n 20u)
V2 N006 0 20
I1 N001 0 30m
V3 vcc_in N005 PULSE(-1 1 0 {t2} {t2} 1n {2*t2})
R2 N003 0 10k
B1 vee_in 0 V=-V(vcc_in)
R3 N002 N004 1k
R322 N004 0 3.3k
V4 N002 0 9
XU2 vcc_in N003 N001 bd679
.tran 1000m
.param t2 = 0.5u
.lib BD679.SP3
.backanno
.end
