* Z:\home\ostoja\Elektronika\PSG10M\simulacije\201_cd_offset.asc
V1 N001 0 PULSE(0 0.6 0 1n 1n 0.5u 1u)
V2 5V 0 5
V3 0 -5V 5
R8 N001 N002 100
R9 N002 0 200
XU5 N003 N006 15V3 -15V3 N005 LM7171
V4 15V3 0 15.3
V5 0 -15V3 15.3
R10 N005 N006 200
R11 0 N006 100
XU6 N002 N004 5V -5V N003 AD8009an
R12 N003 N004 200
R13 N004 N009 100
R14 0 N005 100
XU7 N007 N010 15V3 -15V3 N008 TL072
R15 N010 0 1k
R16 N009 N010 1k
V6 N007 0 0.3
C1 N009 0 1µ
R17 N009 N008 100
.tran 1m
.param x = 0.5
.lib lm7171.lib
.lib AD8009an.sub
.lib TL072.cir
.backanno
.end
