* Z:\home\ostoja\Elektronika\PSG10M\simulacije\901_output_filter.asc
V1 N001 0 AC 1
L1 N002 N001 330n
L2 N003 N002 330n
L3 N004 N003 330n
C1 N002 0 47p
C2 N003 0 47p
C3 N004 0 47p
R1 N004 0 200
C5 N002 N001 1p
C6 N003 N002 5.6p
C7 N004 N003 4.7p
;tran 1000m
.ac dec 100 100k 100Meg
.backanno
.end
